US05110875
Anhydrous sodium carbonate (149 g) was added to a solution of N,N-bis(3-aminoprop-1-yl)-N-methylamine (50.5 g) in diethyl ether (500 ml) and the mixture cooled to 0°. Trifluoroacetic anhydride (150 g) was added dropwise and the mixture stirred at room temperature for 18 hours, water added and the aqueous solution extracted with diethyl ether. The diethyl ether extracts were washed with aqueous saturated sodium chloride solution, dried and evaporated to give N,N-bis(3-trifluoroacetamidoprop-1-yl)-N-methylamine as a colorless oil (69.3 g).

reactant | sodium carbonate | 149 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-bis(3-aminoprop-1-yl)-N-methylamine | 50.5 g | NCCCN(C)CCCN | C7H19N3
reactant | Trifluoroacetic anhydride | 150 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | N,N-bis(3-trifluoroacetamidoprop-1-yl)-N-methylamine | 69.3 g | FC(C(=O)NCCCN(C)CCCNC(C(F)(F)F)=O)(F)F | C11H17F6N3O2
